US06303600B1
(a) 2-Cyclopropyl-7-methoxy-3 H-benzimidazole-4-methanol
A stirred solution of methyl 2-cyclopropyl-7-methoxy-3 H-benzimidazole-4-carboxylate, in dry tetrahydrofuran (220 ml), at −78° C. and under nitrogen, was treated dropwise over 3 hours with a solution of diisobutylaluminium hydride in dichloromethane (270 ml, 1.0M). The reaction mixture was allowed to warm to room temperature over 30 minutes, then cooled to −78° C., then treated dropwise with water (27 ml), then allowed to warm to room temperature. The reaction mixture was diluted with ice-water (500 ml) and the pH of the mixture was adjusted to above 12 by the addition of aqueous sodium hydroxide (750 ml, 1M). The resulting white suspension was filtered to yield a clear filtrate which was extracted seven times with ethyl acetate (500 ml): The combined extracts were dried over magnesium sulphate and then evaporated to yield the title compound as a cream coloured powder (10.13 g).

reactant | methyl 2-cyclopropyl-7-methoxy-3 H-benzimidazole-4-carboxylate | C1(CC1)C=1NC2=C(N1)C(=CC=C2C(=O)OC)OC | C13H14N2O3
reactant | diisobutylaluminium hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | water | 27 ml | O | H2O
reactant | sodium hydroxide | 1M, 750 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 220 ml | O1CCCC1 | C4H8O
solvent | dichloromethane | 1.0M, 270 ml | ClCCl | CH2Cl2
product | 2-Cyclopropyl-7-methoxy-3 H-benzimidazole-4-methanol | C1(CC1)C=1NC2=C(N1)C(=CC=C2CO)OC | C12H14N2O2
